US06248263B1
Electrochromic Layer with Polymer Matrix of Crosslinked HEMA/MMA Copolymer
The pre-polymer solution of Example 13 A was diluted to 7% by weight polymer with propylene carbonate. The pre-polymer solution was made 30 millimolar in Tinuvin p, 17 millimolar in 1,1′-d-(3-phenyl(n-propyl)-4,4′ bipyridinium and 14 millimolar in 5,10-dihydro-5,10-dimethlphenazine simply by dissolving appropriate amounts of these materials in the pre-polymer solution. This solution was degassed by vacuum and flushed with nitrogen. Sufficient tolylene 2,4-diisocyanate (available from Aldrich Chemical Company, Inc. Milwaukee, Wis.) crosslinker was added to crosslink approximately 50 percent of the theoretical hydroxyl position. This solution was thoroughly mixed to ensure that the crosslinker was evenly distributed throughout the fluid.

reactant | 3-phenyl(n-propyl)-4,4′ bipyridinium | C1(=CC=CC=C1)C=1C=[N+](C=CC1C1=CC=[NH+]C=C1)CCC
reactant | propylene carbonate | C1(OCC(C)O1)=O | C4H6O3
solvent | Tinuvin p | CC1=CC(=C(C=C1)O)N2N=C3C=CC=CC3=N2 | C13H11N3O
solvent | 5,10-dihydro-5,10-dimethlphenazine | CN1C=2C=CC=CC2N(C2=CC=CC=C12)C | C14H14N2
product | HEMA | CC(=C)C(=O)OCCO | C6H10O3
